US04064236
A mixture of 0.00185 moles of acetylprolylalanylproline and 0.20 ml of N-methylmorpholine in 20 ml of acetonitrile is cooled to -20° by means of a Dry Ice acetone bath. To this is added 0.28 ml of isobutyl chloroformate. After stirring for 10 minutes at -20° there is added 0.00185 moles of 2-azaalanyllactyllactic acid ethyl ester in 5 ml of acetonitrile. The reaction mixture is allowed to warm to room temperature after which it is stirred for 2 hours and then concentrated in vacuo. The residue is extracted between 50 ml of methylene chloride and 20 ml of cold 0.25 N hydrochloric acid. The acid layer is backwashed 2 times with 25 ml of methylene chloride. The organic extracts are combined, dried over sodium sulfate and concentrated in vacuo to give a glass. This residue is chromatographed on 75 gm of silica gel. Elution with methanol/methylene chloride (1-4%) gives pure acetylprolylalanylprolyl-2-azaalanyllactyllactic acid ethyl ester.

reactant | acetylprolylalanylproline | 0.00185 moles | C(C)(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C15H23N3O5
reactant | N-methylmorpholine | 0.20 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.28 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-azaalanyllactyllactic acid ethyl ester | 0.00185 moles | C(C)OC(C(O)(CC(N(N)C)=O)C(C(O)C)=O)=O | C10H18N2O6
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | acetylprolylalanylprolyl-2-azaalanyllactyllactic acid ethyl ester | C(C)OC(C(O)(CC(N(NC([C@H]1N(CCC1)C([C@@H](NC([C@H]1N(CCC1)C(C)=O)=O)C)=O)=O)C)=O)C(C(O)C)=O)=O | C25H39N5O10
